US05854282
Triethylamine (28 mg, 0.28 mmol) and anisoyl chloride (47 mg, 0.28 mmol) were added to a solution of 5-amino-2-n-butyl-3-(3,5-diiodo-4-ethyl carboxymethoxybenzoyl)-benzofuran (prepared as in Example 1(g) (150 mg, 0.23 mmol) in methylene chloride (5 ml) . The resulting mixture was stirred at room temperature overnight, then washed with brine, dried using MgSO4 and concentrated to produce 172 mg (95%) of 2-n-butyl-3-(3,5-diiodo-4-ethyl carboxymethoxybenzoyl)-5-(4-methoxybenzamido)benzofuran.

reactant | Triethylamine | 0.28 mmol, 28 mg | C(C)N(CC)CC | C6H15N
reactant | anisoyl chloride | 0.28 mmol, 47 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 5-amino-2-n-butyl-3-(3,5-diiodo-4-ethyl carboxymethoxybenzoyl)-benzofuran | NC=1C=CC2=C(C(=C(O2)CCCC)C(C2=C(C(=C(C(=C2)I)CC)I)OCC(=O)O)=O)C1 | C23H23I2NO5
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-n-butyl-3-(3,5-diiodo-4-ethyl carboxymethoxybenzoyl)-5-(4-methoxybenzamido)benzofuran | 172 mg, 95% | C(CCC)C=1OC2=C(C1C(C1=C(C(=C(C(=C1)I)CC)I)OCC(=O)O)=O)C=C(C=C2)NC(C2=CC=C(C=C2)OC)=O | C31H29I2NO7
